US09284324B2
Preparation of (1-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}-1H-pyrrol-3-yl)(pyrrolidin-1-yl)methanone (Compound No. 17)
The titled compound was prepared as a colorless amorphous substance by repeating the procedure of Example 1, except that the methyl 1H-pyrrole-3-carboxylic acid was replaced by (1H-pyrrol-3-yl)(pyrrolidin-1-yl)methanone and the 1-cyclobutyl-4-(4-iodophenoxy)piperidine by 4-(4-iodophenoxy)-1-isopropylpiperidine (which can be synthesized in accordance with the method described in WO2004089373).

reactant | methyl 1H-pyrrole-3-carboxylic acid | CN1C=C(C=C1)C(=O)O | C6H7NO2
reactant | (1H-pyrrol-3-yl)(pyrrolidin-1-yl)methanone | N1C=C(C=C1)C(=O)N1CCCC1 | C9H12N2O
reactant | 1-cyclobutyl-4-(4-iodophenoxy)piperidine | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)I | C15H20INO
reactant | 4-(4-iodophenoxy)-1-isopropylpiperidine | IC1=CC=C(OC2CCN(CC2)C(C)C)C=C1 | C14H20INO
product | (1-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}-1H-pyrrol-3-yl)(pyrrolidin-1-yl)methanone | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)N1C=C(C=C1)C(=O)N1CCCC1 | C23H31N3O2
